US08580957B2
A solution of (2S,4R)-1-acetyl-2-methyl-N-(5-methyl-2-pyridinyl)-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine (for a preparation see Intermediate 109) (135 mg, 0.284 mmol) in tetrahydrofuran (THF) (3 mL) at room temperature was treated with TBAF (1N in THF, 0.341 mL, 0.341 mmol) and the resulting mixture was stirred at this temperature for 30 min then most of the solvent was removed in vacuo. The residue was partitioned between AcOEt and water and the layers were separated. The organic phase was washed with water then brine, dried over MgSO4 and concentrated in vacuo. Purification of the residue by SP4 using a 10 G silica cartridge (gradient:5 to 25% (20% MeOH in DCM) in DCM) gave (2S,4R)-1-acetyl-6-ethynyl-2-methyl-N-(5-methyl-2-pyridinyl)-1,2,3,4-tetrahydro-4-quinolinamine (70 mg, 0.219 mmol, 77% yield) as an orange foam.

reactant | (2S,4R)-1-acetyl-2-methyl-N-(5-methyl-2-pyridinyl)-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C#C[Si](C(C)C)(C(C)C)C(C)C)NC1=NC=C(C=C1)C)C | C29H41N3OSi
reactant | TBAF | 0.341 mmol, 1N, 0.341 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (2S,4R)-1-acetyl-6-ethynyl-2-methyl-N-(5-methyl-2-pyridinyl)-1,2,3,4-tetrahydro-4-quinolinamine | 0.219 mmol, 70 mg, 77% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C#C)NC1=NC=C(C=C1)C)C | C20H21N3O
